US05496727
A solution of the FR-900506 substance (310 mg), 2-trimethylsilylethyl 4-isocyanatobutyrate (350 mg) and triethylamine (6 drops) in anhydrous benzene (4 ml) was heated at 50° C. with stirring for 2 hours. The reaction mixture was allowed to stand at room temperature overnight. The mixture was concentrated to dryness under reduced processure to leave a residue, which was chromatographed on silica gel in chloroform. Elution was carried out with chloroform to give 17-allyl-12-[2-[3-methoxy-4-{3-(2-trimethylsilylethoxycarbonyl) propylcarbamoyloxy)cyclohexyl]-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11, 28-dioxa-4-azatricyclo[22.3.1.04,9 octacos-18-ene-2,3,10,16-tetraone (99 mg). This product was treated with tetra(n-butyl)ammonium fluoride (0.12 m mole) in tetrahydrofuran (2.5 ml) at room temperature for 20 minutes. The reaction mixture was concentrated to dryness under reduced pressure to leave a residue, which was purified with preparative thin layer chromatography on silica gel. Elution with a mixture of chloroform and methanol (5:1) gave 17-allyl-12-[2-{4-(3-carboxypropylcarbamoyloxy)-3-methoxycyclohexyl}-1-methylvinyl]-1, 14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (18.1 mg).

reactant | FR-900506 | C[C@@H]1C[C@@H]([C@@H]2[C@H](C[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H]([C@@H]([C@H](CC(=O)[C@@H](/C=C(/C1)\C)CC=C)O)C)/C(=C/[C@@H]4CC[C@H]([C@@H](C4)OC)O)/C)O)C)OC)OC | C44H69NO12
reactant | 2-trimethylsilylethyl 4-isocyanatobutyrate | 350 mg | N(=C=O)CCCC(=O)OCC[Si](C)(C)C | C10H19NO3Si
reactant | benzene | 4 ml | C1=CC=CC=C1 | C6H6
catalyst | triethylamine | 6 drops | C(C)N(CC)CC | C6H15N
product | octacos-18-ene-2,3,10,16-tetraone | 99 mg | CC(C(CCCCCCC(CCCCCC(CC=CCCCCCCCCC)=O)=O)=O)=O | C28H48O4
